US06518260B1
1.8. Phenylmethyl N-[2-[[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]-1-oxo-3-phenylpropyl]-L-phenylalaninate
To 200 mg (0.42 mmol) of 3-[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]-2-(phenylmethyl)propanoic acid, 178 mg (0.42 mmol) of phenylmethyl L-phenylalaninate in the form of the p-toluenesulphonic acid salt and 384 mg (0.87 mmol) of BOP in 0.8 ml of dimethylformamide is added, with stirring at a temperature in the region of 20° C., 0.7 ml of diisopropylethylamine. After reaction for 30 minutes at this temperature, the dimethylformamide is evaporated off under reduced pressure and 12 ml of 1N hydrochloric acid are added to the oily residue obtained. The precipitate is filtered off, washed with water and dried. 210 mg of product are recovered (yield=70.3%).

reactant | 3-[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]-2-(phenylmethyl)propanoic acid | 0.42 mmol, 200 mg | OP(=O)(CC(C(=O)O)CC1=CC=CC=C1)C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1 | C26H28NO6P
reactant | phenylmethyl L-phenylalaninate | 0.42 mmol, 178 mg | N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C16H17NO2
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | BOP | 0.87 mmol, 384 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diisopropylethylamine | 0.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 0.8 ml | CN(C=O)C | C3H7NO
product | Phenylmethyl N-[2-[[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]-1-oxo-3-phenylpropyl]-L-phenylalaninate | yield=70.3% | OP(=O)(C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)CC(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C42H43N2O7P
